US06245769B1
(S)-4-chloro-1-(1-methoxymethyl-3-methoxypropyl)-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine:
3-amino-2-chloro-6-methyl-4-N-(1-methoxymethyl-3-methoxypropyl)pyridin-4-amine (4.1 g, 14.98 mmol) was dissolved in a mixture of CH2Cl2 (40 mL) and 50% acetic acid (40 mL) and cooled to 0 ° C. in an ice bath. To that a solution of NaNO2 (1.84 g, 26.86 mmol) in water (10 mL) was added dropwise and the reaction was stirred at 0° C. for 30 min and at 25° C. for 1.5 h. Then the acetic acid was neutralized with solid NaHCO3 and water (80 mL) was added. The mixture was extracted with EtOAc (2×100 mL) and the combined organic extracts were combined and washed with brine (50 mL), dried and stripped in vacuo. The residue was chromatographed on silica gel (40% EtOAc/hexanes eluent) to give the product (4.05 g, 56% overall for the eight steps).

reactant | 3-amino-2-chloro-6-methyl-4-N-(1-methoxymethyl-3-methoxypropyl)pyridin-4-amine | 14.98 mmol, 4.1 g | NC=1C(=NC(=CC1NC(CCOC)COC)C)Cl | C12H20ClN3O2
reactant | NaNO2 | 26.86 mmol, 1.84 g | N(=O)[O-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
solvent | water | 80 mL | O | H2O
product | (S)-4-chloro-1-(1-methoxymethyl-3-methoxypropyl)-6-methyl-1H-1,2,3-triazolo[4,5-c]pyridine | ClC1=NC(=CC2=C1N=NN2[C@@H](CCOC)COC)C | C12H17ClN4O2
